US04352914
Bisphenols are exemplified by Bisphenol A, Bisphenol F, Bisphenol C, Bisphenol H and the like. As is well known, Bisphenol A is a dihydric phenol obtained by condensation of phenol and acetone, that is, 2,2-bis(4-hydroxyphenyl)propane; Bisphenol F is the corresponding compound obtained by using formaldehyde instead of the above mentioned acetone; Bisphenol C is the compound obtained by using cyclohexanone instead of the acetone; and Bisphenol H is a dihydric phenol obtained by condensation of o-tert-butyl phenol and acetone. These bisphenols can be used concomitantly.

reactant | 2,2-bis(4-hydroxyphenyl)propane | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | Bisphenol F | C1=CC=C(C(=C1)CC2=CC=CC=C2O)O | C13H12O2
reactant | formaldehyde | C=O | CH2O
reactant | Bisphenol C | C1=CC(=CC=C1C(=C(Cl)Cl)C2=CC=C(C=C2)O)O | C14H10Cl2O2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | acetone | CC(=O)C | C3H6O
product | o-tert-butyl phenol | C(C)(C)(C)C1=C(C=CC=C1)O | C10H14O
